US04444788
(42a) (13E)-(8R,9R,11R,12R,15S)-9-Chloro-19-methyl-11,15-bis(tetrahydropyran-2-yloxy)-13,18-prostadienoic Acid Methyl Ester
A solution of 1.0 g of (13E)-(8R,9S,11R,12R,15S)-9-hydroxy-19-methyl-11,15-bis(tetrahydropyran-2-yloxy)-13,18-prostadienoic acid methyl ester in 14 ml of a solution of 0.97 ml of carbon tetrachloride, 0.79 ml of pyridine, and 48 ml of acetonitrile was stirred together with 730 mg of triphenylphosphine for 70 hours at room temperature under argon. Thereafter the mixture was diluted with 16 ml of ether and 32 ml of hexane, further agitated for 10 minutes, filtered, and concentrated by means of a forced circulation evaporator. The evaporation residue was extracted with a mixture of 5 ml of ether and 95 ml of hexane, filtered, and concentrated to dryness under vacuum. The residue was purified by column chromatograpy on silica gel with hexane/20% ethyl acetate as the eluent, thus obtaining 720 mg of the title compound.

reactant | (13E)-(8R,9S,11R,12R,15S)-9-hydroxy-19-methyl-11,15-bis(tetrahydropyran-2-yloxy)-13,18-prostadienoic acid methyl ester | 1.0 g | COC(CCCCCC[C@H]1[C@H](C[C@H]([C@@H]1\C=C\[C@H](CCC=C(C)C)OC1OCCCC1)OC1OCCCC1)O)=O | C32H54O7
reactant | carbon tetrachloride | 0.97 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | pyridine | 0.79 ml | N1=CC=CC=C1 | C5H5N
reactant | triphenylphosphine | 730 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ether | 16 ml | CCOCC | C4H10O
solvent | hexane | 32 ml | CCCCCC | C6H14
solvent | acetonitrile | 48 ml | C(C)#N | C2H3N
product | (13E)-(8R,9R,11R,12R,15S)-9-Chloro-19-methyl-11,15-bis(tetrahydropyran-2-yloxy)-13,18-prostadienoic Acid Methyl Ester | 720 mg | COC(CCCCCC[C@H]1[C@@H](C[C@H]([C@@H]1\C=C\[C@H](CCC=C(C)C)OC1OCCCC1)OC1OCCCC1)Cl)=O | C32H53ClO6
